data/oMe_Silver.jsonl
{"reaction_id": "NR-227_1-C(C)C_2-C(C)C","level": "hard","name": "Pomeranz-Fritsch Isoquinoline Synthesis","reactants_smiles": ["O=C(C(C)C)c1ccccc1","NC(C(OC(C)C)(OC(C)C))c1ccccc1"],"products_smiles": ["C1=CC=CC2=C1C=C(c3ccccc3)N=C(C(C)C)2"],"conditions": "acidic conditions","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(C(C)C)=NC(c1ccccc1)C(OC(C)C)(OC(C)C)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by acid activation of the carbonyl, forming a stabilized carbinolamine intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(C(C)C)=NC(c1ccccc1)C(=[O+]CC)","step_weight": 0,"rationale": "Protonation of the hydroxyl group enhances its leaving ability, allowing water elimination to form an iminium ion stabilized by conjugation with the aromatic ring."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C(c1ccccc1)(C(C)C)=NC(c1ccccc1)=C([O]CC)","step_weight": 0,"rationale": "Loss of a proton adjacent to the iminium generates an enamine, driven by increased conjugation and relief of positive charge."},{"step": 4,"type": "cyclization","subtype": "aromatic_electrophilic_substitution","intermediate_smiles": "C(=C1C2C=CC=C1)(C(C)C)N=C(c1ccccc1)C2([O]CC)","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the electrophilic iminium carbon intramolecularly, favored by proximity and acid-promoted electrophilicity, forming the bicyclic framework."},{"step": 5,"type": "aromatization","subtype": "dehydration","intermediate_smiles": "C1=CC=CC3=C1C=C(C2=CC=CC=C2)N=C3(C(C)C)","step_weight": 0,"rationale": "Dehydration restores full aromaticity in the heterocyclic ring, a thermodynamically favorable step under acidic, dehydrating conditions."}],"description": "Under acidic conditions, the amine condenses with the carbonyl to form an iminium intermediate, which undergoes dehydration and rearrangement. Subsequent intramolecular electrophilic aromatic substitution closes the isoquinoline ring, followed by dehydration-driven aromatization to yield the heteroaromatic product."}
{"reaction_id": "NR-032_1-CCCCCC_2-c1cc(C)ccc1OC","name": "Büchner-Curtius-Schlotterbeck Reaction","level": "medium","reactants_smiles": ["C(=O)(CCCCCC)(c1cc(C)ccc1OC)","C=[N+]=[N-]"],"products_smiles": ["C(=O)(c1cc(C)ccc1OC)(CCCCCCC)"],"conditions": "","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(C[N+]#N)(CCCCCC)(c1cc(C)ccc1OC)","step_weight": 0,"rationale": "The azide nitrogen lone pair attacks the electrophilic carbonyl carbon, whose partial positive charge is enhanced by the electron-withdrawing oxygen, forming a tetrahedral intermediate stabilized by resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(c1cc(C)ccc1OC)(CCCCCCC)","step_weight": 0,"rationale": "Thermal conditions promote a 1,2-shift as nitrogen gas leaves, driven by the stability of the carbonyl and relief of electron deficiency at the migrating carbon."}],"description": "The reaction proceeds via nucleophilic addition of an organoazide to the carbonyl, forming a tetrahedral intermediate. Under the conditions, a 1,2-shift occurs, driven by nitrogen extrusion and formation of a more stable carbonyl product with rearranged substituents."}
